US07238716B2
A mixture of ethyl (E)-3-(2-benzyloxy-4-methoxymethoxyphenyl)-2-propenoate (14.80 g), 5% palladium carbon (20.0 g) and ethanol (300 mL) was subjected to catalytic hydrogenation at room temperature and 1 atm. After filtering off the catalyst, the solvent was evaporated under reduced pressure to give ethyl 3-(2-hydroxy-4-methoxymethoxyphenyl)propionate as a colorless oil (9.17 g, 84%).

reactant | ethyl (E)-3-(2-benzyloxy-4-methoxymethoxyphenyl)-2-propenoate | 14.80 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCOC)/C=C/C(=O)OCC | C20H22O5
catalyst | palladium carbon | 20.0 g | [C].[Pd]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | ethyl 3-(2-hydroxy-4-methoxymethoxyphenyl)propionate | 9.17 g, 84% | OC1=C(C=CC(=C1)OCOC)CCC(=O)OCC | C13H18O5
